Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypotension, hypoxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS: Mr. ___ is a ___ year old
gentleman (retired ED ___) with a history of paroxysmal
atrial fibrillation, embolic CVA resulting in R sided hemiplegia
and aphasia, hypertension, currently being treated for a urinary
tract infection, who presents from his nursing home for
evaluation of abdominal pain, hypotension, and new 02
requirement.

Patient notes that his symptoms started 4 days prior to 
admission
with diffuse abdominal pain, chest pain, and more difficulty
breathing. Per review of nursing home notes he was noted to be
more lethargic on ___. He was started on D51/2NS for a total
of 4.5L. He was also started on levaquin for recurrent UTI (plan
per nursing home notes for treatment ___. In the 2 days
leading up to his admission he has required ___ 02, where he 
has
never required oxygen in the past. CXR on ___ at his nursing
home was negative for pneumonia but did reveal a "mass in the
right lung field". This morning blood pressure at his nursing
home noted to be 80/60 and he was transferred to ___ ED.

Of note, he is currently being treated for a urinary tract
infection at his nursing home and is on day 4 of antibiotic
therapy. 

Initial vitals on arrival: 97.8 HR 76 BP 104/79 RR 18 100% RA
Labs were notable for: CBC WNL, chemistry panel WNL, lactate 
1.3,
LFTs/lipase WNL, UA bland. This morning white count rose to 11.4
from 9.2 on ___. Troponin negative. BNP measured at 1332 (no
baseline for comparison). An IJ was placed given difficult
access.  

Imaging:
CXR: A focal ovoid densities seen overlying the diaphragms on
lateral view may represent overlying vascular structures and
chronic atelectasis, however a superimposed infection or focal
pulmonary lesion cannot be excluded.

CT A/P: No acute process 

The ___ resident assumed care of the patient in the ED. Given
EKG findings of RBBB and atrial fibrillation, CTA was obtained,
which was negative for PE, though concerning for
de-differentiation of previously noted lipoma. 

During the course of his ED stay (which spanned ___ he
received:
___ 16:22 PO Ondansetron ODT 4 mg 
___ 16:22 PO Acetaminophen 650 mg 
___ 17:01 IV CeftriaXONE   
___ 20:38 IVF  NS 
___ 22:10 IVF  NS 1 mL ___ Stopped (1h 
___

___ 10:42 NEB Ipratropium-Albuterol Neb 1 NEB 
___ 10:42 PO/NG Gabapentin 300 mg 
___ 10:42 PO/NG Aspirin 81 mg   
___ 10:42 IVF 500 mL NS    
___ 10:57 PO Dabigatran Etexilate 150 mg  
___ 11:00 PO/NG Levothyroxine Sodium 75 mcg   
___ 11:00 PO/NG Sertraline 200 mg  
___ 12:20 IVF 500 mL NS 500 mL 

Vitals on transfer: 98.4 100 117/62 16 98% 2L NC
On arrival to the floor, he appears comfortable.

He denies fevers, chills, night sweats, weight change. He denies
headache, sinus congestion, rhinorrhea. He endorses chest
heaviness but denies cough. Abdominal pain has since improved
(though not yet entirely resolved). He denies nausea, vomiting,
constipation. He has occasional diarrhea at baseline. He was
having dysuria at his nursing home but this has resolved with
antibiotic therapy. Denies PND/orthopnea. Denies myalgias. 
 
 
Past Medical History:
1. Paroxysmal atrial fibrillation 
2. Vertebral artery dissection complicated by hemorrhage in
setting of elevated INR, on coumadin, lovenox, ASA
3. Hypertension 
4. CVA ___ (embolic) - right hemiplegia and some aphasia
5  Multiple Aspiration Events
6. GERD
7. HLD
8. Insomnia
9. Urinary retention
10. Cataract
11. Essential tremor
12. Generalized anxiety disorder
13. Hypothyroidism
 
Social History:
___
Family History:
Father had MI at age ___
Mother with dystrophy
 
Physical Exam:
On Admission
Vital Signs: 98.7 PO 121 / 73 104 22 94 3L NC but 92% on RA 
General: Lying in bed, alert and oriented x3, in NAD  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP challenging to assess as RIJ is in place. EJ 
not
elevated.  
CV: Irregularly irregular, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Bibasilar crackles, no wheezing or rhonchi
Abdomen: Soft, non-tender, mildly distended, bowel sounds
present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses pedal pulses. Trace ___ edema
bilaterally. Two 1cm areas of ulceration from prior Mohs surgery
(4 weeks ago) with overlying dressing c/d/i.  
Neuro: Right sided facial droop, right sided hemiparesis. Alert
and oriented x3
Pscych: Calm, appropriate 

DISCHARGE
VS T 97.9 BP 92 / 61 (atenolol given today) HR 79 RR 16 O2 sat 
98 2L NC 
Gen: NAD, resting
Eyes: EOMI, no scleral icterus, R pupil 5mm reactive, left 3mm
reactive
HENT: NCAT, trachea midline
CV: RRR, S1-S2, no m/r/r/g, no pitting edema 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
MSK: R sided flaccid paralysis in upper and lower extremities, L
sided ___ upper/lower strength, L palpable lipoma on chest
without tenderness
Neuro: A+Ox3, Left facial droop, R facial paralysis, R>L
pupillary dilation
Skin: R shin abrasion with gauze in place
Psych: Congruent affect, good judgment
 
Pertinent Results:
On Admission:

___ 04:30PM BLOOD WBC-9.2 RBC-4.77 Hgb-14.4 Hct-45.9 MCV-96 
MCH-30.2 MCHC-31.4* RDW-13.6 RDWSD-48.8* Plt ___
___ 04:30PM BLOOD ___ PTT-64.6* ___
___ 04:30PM BLOOD Glucose-103* UreaN-11 Creat-0.7 Na-136 
K-4.1 Cl-97 HCO3-30 AnGap-13
___ 04:30PM BLOOD ALT-17 AST-16 AlkPhos-81 TotBili-0.4
___ 04:30PM BLOOD Lipase-16
___ 10:55AM BLOOD CK-MB-1 cTropnT-<0.01 proBNP-1332*
___ 05:47PM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:30PM BLOOD Albumin-3.5

MICROBIOLOGY: 
___ Urine culture pending
___ Blood culture pending 

___ Urine culture at nursing home:
E.coli >100,000 organisms. Resistant to Bactrim, but otherwise
pansensitive
 
IMAGING & STUDIES: 
___ CXR (nursing home): Low lung volumes and patient body
habitus limit evaluation. Again seen is a pleural-based mass
superolaterally in the left upper lobe without significant
change. The right lung is clear. The heart and mediastinal
structures are unremarkable. 

Impression: Pleural based mass is concerning for malignancy.
Further evaluation with a contrast-enhanced CT of the thorax is
recommended. 

___ CXR:
1. Unchanged chronic elevation of the bilateral hemidiaphragms,
with chronic atelectasis in the right middle and bilateral lower
lobes. 
2. A focal ovoid densities seen overlying the diaphragms on
lateral view may represent overlying vascular structures and
chronic atelectasis, however a superimposed infection or focal
pulmonary lesion cannot be excluded. 

___ CT A/P:
1. No acute intra-abdominal or pelvic process. 
2. Diverticulosis, with no evidence of acute diverticulitis. 
3. Small fat containing umbilical hernia containing loop of 
small
bowel and fat, without complications. 
4. Subcentimeter hypodensities within the liver, likely biliary
hamartomas or cysts. 2 subcentimeter hyperdense foci in the 
right
lobe of the liver, possibly hemangiomas, incompletely assessed. 
  
___ CTA:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. 3.8 x 2.7 x 3.7 cm mass in the left chest wall, previously
identified as lipoma, now shows significant increase in
peripheral soft tissue component. While this finding may be due
to interval fat necrosis of the lipoma, liposarcoma would be
possible. Recommend non-urgent thoracic consultation. 
3. Unchanged 3 mm right upper lobe lung nodule (series 3; image
53). No follow-up imaging is necessary. 
4. Sclerotic lesion of left aspect of the T2 vertebral body has
the appearance of a bone island; however, this was not noted in
___. Attention of follow-up exams recommend 
 
ECG: Rate 104, atrial fibrillation, RBBB

DISCHARGE

___ 05:22AM BLOOD WBC-9.3 RBC-4.29* Hgb-13.0* Hct-41.3 
MCV-96 MCH-30.3 MCHC-31.5* RDW-13.6 RDWSD-48.1* Plt ___
___ 04:30PM BLOOD Neuts-74.7* Lymphs-18.6* Monos-5.2 
Eos-0.7* Baso-0.3 Im ___ AbsNeut-6.86* AbsLymp-1.71 
AbsMono-0.48 AbsEos-0.06 AbsBaso-0.03
___:22AM BLOOD Glucose-101* UreaN-12 Creat-0.7 Na-137 
K-3.8 Cl-98 HCO3-34* AnGap-9
___ 05:22AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a
history of paroxysmal atrial fibrillation on dabigatran, embolic
CVA resulting in R sided hemiplegia and aphasia, hypertension,
currently being treated for a urinary tract infection who
presents from his nursing home for evaluation of hypotension.  

# Hypotension: Broad differential but likely hypovolemia in
origin given improvement with fluids and holding 
anti-hypertensive agents. Denies any new medication changes. No 
localizing signs of infection. WBC improved, pending cultures. 
Lipoma has been present ___ years without TTP at this time. TTE 
originally showed hypokinesis of inferolateral wall of RV but 
cardiology consult was obtained and did not believe this was 
present (poor images). Trop neg x2. EKG with RBBB no other 
changes. No chest pain and completely asymptomatic. His blood 
pressures improved to systolic 120s-140s with holding 
medications. Attempted to restart losartan 100 and atenolol 
after fluids however BP dropped to ___. Today attempted 
again to restart only atenolol with BP ___ that resolved on 
own to SB ___. Completely asymptomatic. CTA chest was 
negative for PE. No other source of infection. 
- Continue treatment of urinary tract infection as below
- F/u ECHO
- Plan to hold losartan 100 and atenolol 50. Hold Lasix. Plan to 
restart atenolol at smaller dose of 25 mg when sBP is >150. 
Otherwise is controlled. 

# Acute hypoxic respiratory Failure: Currently on 3.5 L what was 
weaned to 98% on 2L. This was further weaned to room air 92%. 
CTA no PE/PNA. Given
fluids in NH and ED (4.5L + 1.5L) but do not appreciate crackles
on exam. ? atelectasis and has improved with IS. BNP elevated 
w/o TTE showing failure.  
- IS, continue to hold Lasix pending BP trend today
- ECHO as above
- Wean 02 as able

# Lipoma - CTA was notable for "3.8 x 2.7 x 3.7 cm mass in the
left chest wall, previously identified as lipoma, now shows
significant increase in peripheral soft tissue component.
Discussed with patient, no TTP, no skin changes. Present ___
years. Pt would not like to pursue biopsy at this time so will
defer calling thoracic with clinical improvement.

# Complicated urinary tract infection: Patient is currently on
Day 5 of planned 10 day course of antibiotics for UTI (received
Ceftriaxone in ED yesterday instead of levaquin). 
- Will continue levaquin initiated at the nursing home, though
with likely 7 day course for complicated UTI. End date levaquin 
___ to complete ___bdominal pain: Patient with abdominal pain, more prominent 4
days ago. Appears to be resolving per patient history. CT A/P
without acute findings, LFTs within normal limits.
- Will continue to monitor

Chronic:
# Paroxysmal atrial fibrillation: hold atenolol, cont dabigatran
# S/P CVA: Pain control with Tylenol, oxocydone. Tizanidine for
spasm. Scripts given for NH
# Hypothyroidism: Continue home levothyroxine
# Generalized anxiety: Continue sertraline
# Hypertension: Holding home losartan given low BPs
# Chronic Diastolic CHF: Holding Lasix for now in the setting of 
hypotension. Will
obtain ECHO as above. 
# GERD: Continue omeprazole
# Hyperlipidemia: Continue atorvastatin
# Insomnia: Melatonin nonformulary, continue ramelteon
# Recent ___'s surgery: For basal cell carcinoma. Continue daily
wound care.
 
# FEN: IVF PRN, replete electrolytes, regular diet. Encourage po 
intake
# PPX: Systemic anticoagulation with dabigatran, Senna/Colace,
analgesics prn  
# ACCESS: RIJ removed prior to d/c. Poor iv access 
# Code Status: DNR/DNI (confirmed with patient on admission). 
MOLST signed

Discharge took >30 minutes to prepare

  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levofloxacin 750 mg PO Q24H 
2. Melatin (melatonin) 5 mg oral QHS 
3. Ramelteon 8 mg PO QHS:PRN insomnia 
4. Phenazopyridine 200 mg PO TID:PRN urinary symptoms 
5. Mupirocin Ointment 2% 1 Appl TP DAILY surgical wounds 
6. Polyethylene Glycol 17 g PO DAILY 
7. Acetaminophen w/Codeine 1 TAB PO Q6H:PRN Pain - Moderate 
8. GuaiFENesin ___ mL PO Q6H:PRN chest congestion 
9. TraMADol 75 mg PO Q8H:PRN Pain - Moderate 
10. Gabapentin 300 mg PO TID 
11. Atenolol 50 mg PO DAILY 
12. Docusate Sodium 100 mg PO DAILY 
13. Senna 8.6 mg PO DAILY 
14. Acetaminophen 650 mg PO DAILY 
15. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 

16. Cyanocobalamin 1000 mcg PO DAILY 
17. Sertraline 200 mg PO DAILY 
18. Diazepam 10 mg PO Q8H:PRN anxiety 
19. Acidophilus (Lactobacillus acidophilus) unknown mg oral 
daily 
20. Atorvastatin 10 mg PO QPM 
21. Atropine Sulfate 1% 2 DROP SL EVERY 4 HOURS excessive 
secretions 
22. lidocaine 2% gel topical Q6H:PRN 
23. Hyoscyamine 0.125 mg SL QID:PRN excessive secretions 
24. Omeprazole 20 mg PO DAILY 
25. Levothyroxine Sodium 75 mcg PO DAILY 
26. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea 
27. Aspirin 81 mg PO DAILY 
28. Decubi Vite (multivit-folic acid-zinc-vit C) 400-50-500 
mcg-mg-mg oral daily 
29. Furosemide 20 mg PO DAILY 
30. Losartan Potassium 100 mg PO DAILY 
31. Dabigatran Etexilate 150 mg PO BID 
32. Prochlorperazine 10 mg PO Q12H:PRN nausea 
33. Tizanidine 2 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen w/Codeine 1 TAB PO Q6H:PRN Pain - Moderate  
2.  Acetaminophen 650 mg PO DAILY  
3.  Acidophilus (Lactobacillus acidophilus) unknown  oral DAILY  

4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  Atropine Sulfate 1% 2 DROP SL EVERY 4 HOURS excessive 
secretions  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Dabigatran Etexilate 150 mg PO BID  
9.  Decubi Vite (multivit-folic acid-zinc-vit C) 400-50-500 
mcg-mg-mg oral daily  
10.  Diazepam 10 mg PO Q8H:PRN anxiety 
RX *diazepam 10 mg 1 tab by mouth twice a day Disp #*10 Tablet 
Refills:*0 
11.  Docusate Sodium 100 mg PO DAILY  
12.  Gabapentin 300 mg PO TID  
13.  GuaiFENesin ___ mL PO Q6H:PRN chest congestion  
14.  Hyoscyamine 0.125 mg SL QID:PRN excessive secretions  
15.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN dyspnea  
16.  Levofloxacin 750 mg PO Q24H  
17.  Levothyroxine Sodium 75 mcg PO DAILY  
18.  lidocaine 2% gel topical Q6H:PRN  
19.  Melatin (melatonin) 5 mg oral QHS  
20.  Mupirocin Ointment 2% 1 Appl TP DAILY surgical wounds  
21.  Omeprazole 20 mg PO DAILY  
22.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Severe  
23.  Phenazopyridine 200 mg PO TID:PRN urinary symptoms  
24.  Polyethylene Glycol 17 g PO DAILY  
25.  Prochlorperazine 10 mg PO Q12H:PRN nausea  
26.  Ramelteon 8 mg PO QHS:PRN insomnia  
27.  Senna 8.6 mg PO DAILY  
28.  Sertraline 200 mg PO DAILY  
29.  Tizanidine 2 mg PO DAILY  
30.  TraMADol 75 mg PO Q8H:PRN Pain - Moderate 
RX *tramadol 50 mg 1.5 tablet(s) by mouth every eight (8) hours 
Disp #*10 Tablet Refills:*0 
31. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until SBP >150 and consider restarting at 
25 mg dose
32. HELD- Losartan Potassium 100 mg PO DAILY  This medication 
was held. Do not restart Losartan Potassium until blood pressure 
is >150 SBP

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypotension
Chest wall lipoma
Chronic aphasia/R sided hemiplegia from previous embolic CVA
Chronic atrial fibrillation
Acute Hypoxic Respiratory Failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital due to hypotension. After an 
extensive workup, we do believe the hypotension was from a 
combination of your blood pressure medications and hypovolemia. 
An echocardiogram was performed of your heart which originally 
showed poor movement, but after reviewed by cardiology was deems 
intact and just poor imaging. We have stopped your losartan 
completely and would recommend you just take atenolol 50 mg 
daily with holding parameters of SBP <100. after we attempted 
this your blood pressure dropped to ___. Since you are 
hypovolemic it would be best to hold all of your blood pressure 
medications until your SBP is >150, then restart atenolol at a 
low dose or 25 mg po qdaily with close monitoring at your 
facility.

Your CT scan showed a possible lipoma necrosis on your chest 
wall but you did not show any signs of infection. Since this has 
been present for ___ years the plan is to monitor.
 
Followup Instructions:
___